US05340831
Preparation of 3,4-dimethylphenethyl alcohol
Lithium aluminium hydride (0.4 g) was added in portions to a solution of methyl 3,4-dimethylphenylacetate (3.0 g--see Preparation 16) in anhydrous diethyl ether (50 ml). When the addition was complete, the mixture was heated under reflux for 1 hour then allowed to stand at room temperature for 16 hours. Water (0.5 ml) was carefully added dropwise followed by 15% aqueous sodium hydroxide (0.5 ml) and finally more water (2 ml). The resulting solid precipitate was filtered off and washed with diethyl ether (3×20 ml). The filtrate and washings were combined, dried (MgSO4) and concentrated in vacuo to give the title compound as a colourless oil which was used directly--see Preparation 18).

reactant | Lithium aluminium hydride | 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3,4-dimethylphenylacetate | 3.0 g | CC=1C=C(C=CC1C)CC(=O)OC | C11H14O2
reactant | Water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3,4-dimethylphenethyl alcohol | CC=1C=C(CCO)C=CC1C | C10H14O
